US06566385B2
Step C: Preparation of 1-(4-bromo-butoxymethyl)-3-tert-butoxy-benzene
To a solution of (3-tert-butoxy-phenyl) methanol (4.02 g, 0.022 mol) and tetrabutylammonium hydrogen sulfate (0.379 g, 0.00115 mol) in 50% NaOH solution (6 mL) and benzene (15 mL) Was added 1,4-dibromobutane (7.99 mL, 0.067 mol) with vigorous stirring at ambient temperature. After stirring for 8 h, the mixture was partitioned between H2O and EtOAc. The organic layer was separated, washed with brine, dried (MgSO4), filtered, and concentrated to give the title compound after purification on an ISCO Combiflash eluting with 0-10% EtOAc/hexane.

reactant | (3-tert-butoxy-phenyl) methanol | 0.022 mol, 4.02 g | C(C)(C)(C)OC=1C=C(C=CC1)CO | C11H16O2
reactant | 1,4-dibromobutane | 0.067 mol, 7.99 mL | BrCCCCBr | C4H8Br2
catalyst | tetrabutylammonium hydrogen sulfate | 0.00115 mol, 0.379 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | NaOH | 6 mL | [OH-].[Na+]
solvent | benzene | 15 mL | C1=CC=CC=C1 | C6H6
product | 1-(4-bromo-butoxymethyl)-3-tert-butoxy-benzene | BrCCCCOCC1=CC(=CC=C1)OC(C)(C)C | C15H23BrO2
